US07276511B2
Synthesis of ethyl(benzylidene-amino)-(3,4-dichlorophenyl)acetate
Triethylamine (170 mL) and benzaldehyde (130 mL) were added to a suspension of ethyl amino-(3,4-dichlorophenyl)-acetate hydrochloride (350 g) in acetonitrile (1.5 L), followed by stirring at room temperature overnight. The insoluble matter was removed through Celite, followed by washing with ethyl acetate. The filtrate was subjected to partitioning with water and then extraction with ethyl acetate. The thus-obtained organic layer was washed with saturated brine, and then dried over sodium sulfate anhydrate. The solvent was removed under reduced pressure, to thereby give the title compound (425 g). The title compound was used in the next step without further purification.

reactant | Triethylamine | 170 mL | C(C)N(CC)CC | C6H15N
reactant | benzaldehyde | 130 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | ethyl amino-(3,4-dichlorophenyl)-acetate hydrochloride | 350 g | Cl.NC(C(=O)OCC)C1=CC(=C(C=C1)Cl)Cl
solvent | acetonitrile | 1.5 L | C(C)#N | C2H3N
product | ethyl(benzylidene-amino)-(3,4-dichlorophenyl)acetate | 425 g | C(C)OC(C(C1=CC(=C(C=C1)Cl)Cl)N=CC1=CC=CC=C1)=O | C17H15Cl2NO2
